US07858613B2
(3-Trifluoromethylphenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl)ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one (555 mg, 2.33 mmol) in 29 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.35 ml, 2.56 mmol) and 3-(trifluoromethyl)phenyl isothiocyanate (885 μl, 5.82 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 ethyl acetate/hexane). The product was obtained in a yield of 320 mg (31%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one | 2.33 mmol, 555 mg | OCC1(C(C2=C(SCC1)C=CC=C2)=O)CO | C12H14O3S
reactant | triethylamine | 2.56 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenyl isothiocyanate | 5.82 mmol, 885 μl | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | (3-Trifluoromethylphenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl)ester | OCC1(C(C2=C(SCC1)C=CC=C2)=O)COC(NC2=CC(=CC=C2)C(F)(F)F)=S | C20H18F3NO3S2
